US06140351
A suspension of 2-carboxy-3-chloro-4-(4-methylpiperazin-1-yl)methylthiophene HCl salt (2.0 g, 5.8 mmol) in thionyl chloride (50 mL) was heated at reflux. After 90 hours, the mixture was cooled to ambient temperature and concentrated of all volatiles in vacuo. To a suspension of the resulting solid in pyridine (20 mL) at 0° C was added N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide (1.5 g, 5.2 mmol) in pyridine (5 mL). The mixture was stirred and allowed to warm gradually to ambient temperature. After 16 hours, the mixture was concentrated of all volatiles in vacuo. Purification by flash chromatography on silica gel afforded 2.2 g (80% yield) of N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, as a tan foam; NMR (DMSO-d6 /TFA) 11.4 (s, 1), 11.0 (s, 1), 7.6-8.4 (m, 7), 4.4 (s, 2), 3.04.0 (br m, 8), 2.9 (s, 3) ppm.

reactant | 2-carboxy-3-chloro-4-(4-methylpiperazin-1-yl)methylthiophene HCl salt | 5.8 mmol, 2.0 g | Cl.C(=O)(O)C=1SC=C(C1Cl)CN1CCN(CC1)C
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide | 5.2 mmol, 1.5 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)Cl)N)=O | C12H9Cl2N3O
solvent | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 2.2 g, 80% yield | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CN1CCN(CC1)C)=O | C23H22Cl3N5O2S
